US08232289B2
2. 2-Bromo-3-(isopropoxymethyl)-pyridine
To a solution of isopropyl alcohol (7.31 mL, 95.65 mmol) in dimethylformamide (50 mL) at 0° C. is added sodium hydride (3.63 g, 90.87 mmol) and the mixture is stirred at room temperature for 30 minutes (this reaction is run using a shield as special protection). Then, 2-bromo-3-bromomethyl-pyridine (6 g, 23.91 mmol) in 10 mL of dimethylformamide is added via syringe and the mixture is stirred at room temperature for 1 h. Water is added and the mixture is extracted with ethyl acetate, washed with brine and water, dried over magnesium sulfate, filtered and the solvent evaporated under reduced pressure. The crude material is purified by normal phase Isco chromatography using ethyl acetate and hexane as eluent (gradient of 5 to 25% of ethyl acetate) to yield 3.67 g of the title compound. MS (m/z): 230, 232 (M+1, M+3)

reactant | isopropyl alcohol | 95.65 mmol, 7.31 mL | C(C)(C)O | C3H8O
reactant | sodium hydride | 90.87 mmol, 3.63 g | [H-].[Na+]
reactant | 2-bromo-3-bromomethyl-pyridine | 23.91 mmol, 6 g | BrC1=NC=CC=C1CBr | C6H5Br2N
reactant | Water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-Bromo-3-(isopropoxymethyl)-pyridine | 3.67 g | BrC1=NC=CC=C1COC(C)C | C9H12BrNO
